US05075338
11.0 g (0.068 mole) of benzyl-propyl-ketone are dissolved in 110 ml of benzene, whereupon 8.0 g (0.135 mole) of n-propylamine and 22.6 g (0.2 mole) of anhydrous calcium chloride are added to the solution. The reaction mixture is stirred at 40°-50° C. for 6 hours, then filtered and evaporated. The crude ketimine thus obtained is dissolved in 120 ml of methanol, whereupon 6.4 g (0.17 mole) of sodium borohydride are added. The reaction mixture is allowed to stand, whereupon it is poured into 500 ml of water and extracted five times with 100 of benzene each. The benzene solution is dried and evaporated. The crude N-propyl-1-phenyl-2-pentylamine thus obtained is purified by distillation in vacuo. B.p.: 112°-120° C./7 Hgmm, n20D =1.5030.

reactant | benzyl-propyl-ketone | 0.068 mole, 11.0 g | C(C1=CC=CC=C1)C(=O)CCC | C11H14O
reactant | n-propylamine | 0.135 mole, 8.0 g | C(CC)N | C3H9N
reactant | calcium chloride | 0.2 mole, 22.6 g | [Cl-].[Ca+2].[Cl-]
reactant | sodium borohydride | 0.17 mole, 6.4 g | [BH4-].[Na+]
solvent | benzene | 110 ml | C1=CC=CC=C1 | C6H6
solvent | methanol | 120 ml | CO | CH4O
solvent | water | 500 ml | O | H2O
product | N-propyl-1-phenyl-2-pentylamine | C(CC)NC(CC1=CC=CC=C1)CCC | C14H23N
